US05430047
Step B: Preparation of 3-[3-(2,5-Dimethoxyphenyl)-3-oxo-1-propenyl]-benzoic acid, methyl ester
A solution of 3-[3-(2,5-dimethoxyphenyl)-3-oxo-1-propenyl]-benzoic acid (2.86 g, 9.15 mmol) in methanol (200 mL) is treated with sulfuric acid (0.5 mL) and heated under reflux for 6 hours. After standing at room temperature 12 hours, the resulting solid is collected by filtration and washed with methanol to provide 2.2 g of the title compound; mp 108°-110° C. Additional material (0.7 g) is obtained by concentrating the filtrate and washings under vacuum, partitioning the residue between saturated sodium bicarbonate solution and dichloromethane, and concentrating the dried (MgSO4) organic layer to dryness.

reactant | 3-[3-(2,5-dimethoxyphenyl)-3-oxo-1-propenyl]-benzoic acid | 9.15 mmol, 2.86 g | COC1=C(C=C(C=C1)OC)C(C=CC=1C=C(C(=O)O)C=CC1)=O | C18H16O5
reactant | sulfuric acid | 0.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | 3-[3-(2,5-Dimethoxyphenyl)-3-oxo-1-propenyl]-benzoic acid, methyl ester | 2.2 g | COC1=C(C=C(C=C1)OC)C(C=CC=1C=C(C(=O)OC)C=CC1)=O | C19H18O5
